US06951865B2
1-(1-Ethylpropyl)-7-mesityl-4,6-dimethyl-1H-pyrrolo[3,2-c]quinoline
A solution of 4-chloro-3-(2-chloroethyl)-7-mesityl-2,8-dimethylquinoline (200 mg, 0.54 mmol) in 3-aminopentane (6.0 mL) was stirred in a sealed tube at 200° C. for 8 hr. After evaporating, activated manganese dioxide (101 mg, 1.16 mmol) was added to a solution of the residue in toluene (9.0 mL) and the mixture was stirred for two days. After filtering through Celite, the mixture was evaporated. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to give the title compound (12 mg) as white crystals.

reactant | 4-chloro-3-(2-chloroethyl)-7-mesityl-2,8-dimethylquinoline | 0.54 mmol, 200 mg | ClC1=C(C(=NC2=C(C(=CC=C12)C1=C(C=C(C=C1C)C)C)C)C)CCCl | C22H23Cl2N
solvent | 3-aminopentane | 6.0 mL | NC(CC)CC | C5H13N
solvent | toluene | 9.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 1.16 mmol, 101 mg | [O-2].[O-2].[Mn+4]
product | 1-(1-Ethylpropyl)-7-mesityl-4,6-dimethyl-1H-pyrrolo[3,2-c]quinoline | 12 mg | C(C)C(CC)N1C=CC=2C(=NC=3C(=C(C=CC3C21)C2=C(C=C(C=C2C)C)C)C)C | C27H32N2
